US06608084B1
(a) 1-Acetyl-5-pentanoyl-2,3-dihydro-1H-indole
Pentanoyl chloride (10.8 g) was added dropwise to a mixture of anhydrous aluminium chloride (28.2 g) and 1-acetyl-2,3-dihydro-1H-indole (10 g) in 1,2-dichloroethane (100 mL) with mechanical stirring. The mixture was stirred at reflux for 16 hours, then cooled, then poured into ice-water. The mixture was extracted with dichloromethane. The extracts were washed with 1M aqueous sodium hydroxide, then dried over magnesium sulphate, then evaporated to give the title compound (10.3 g) as a dark gum.

reactant | Pentanoyl chloride | 10.8 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | aluminium chloride | 28.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-acetyl-2,3-dihydro-1H-indole | 10 g | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 1-Acetyl-5-pentanoyl-2,3-dihydro-1H-indole | 10.3 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CCCC)=O | C15H19NO2
